### PR TITLE
[Merged by Bors] - chore(*): rename `EMetric.infEdist` -> `Metric.infEDist` etc

### PR DESCRIPTION
**Pull request by urkud**
Moves:

- ConvexBody.hausdorffEdist_coe -> ConvexBody.hausdorffEDist_coe
- ConvexBody.hausdorffEdist_ne_top -> ConvexBody.hausdorffEDist_ne_top
- EMetric.Closeds.edist_eq -> TopologicalSpace.Closeds.edist_eq
- EMetric.Closeds.isometry_singleton -> TopologicalSpace.Closeds.isometry_singleton
- EMetric.Closeds.lipschitz_sup -> TopologicalSpace.Closeds.lipschitz_sup
- EMetric.NonemptyCompacts.isClosed_in_closeds -> TopologicalSpace.NonemptyCompacts.isClosed_in_closeds
- EMetric.NonemptyCompacts.isometry_singleton -> TopologicalSpace.NonemptyCompacts.isometry_singleton
- EMetric.NonemptyCompacts.isometry_toCloseds -> TopologicalSpace.NonemptyCompacts.isometry_toCloseds
- EMetric.NonemptyCompacts.lipschitz_prod -> TopologicalSpace.NonemptyCompacts.lipschitz_prod
- EMetric.NonemptyCompacts.lipschitz_sup -> TopologicalSpace.NonemptyCompacts.lipschitz_sup
- EMetric.continuous_infEdist -> Metric.continuous_infEDist
- EMetric.continuous_infEdist_hausdorffEdist -> TopologicalSpace.Closeds.continuous_infEDist
- EMetric.disjoint_closedBall_of_lt_infEdist -> Metric.disjoint_closedEBall_of_lt_infEDist
- EMetric.edist_le_infEdist_add_ediam -> Metric.edist_le_infEDist_add_ediam
- EMetric.empty_or_nonempty_of_hausdorffEdist_ne_top -> Metric.empty_or_nonempty_of_hausdorffEDist_ne_top
- EMetric.exists_edist_lt_of_hausdorffEdist_lt -> Metric.exists_edist_lt_of_hausdorffEDist_lt
- EMetric.exists_pos_forall_lt_edist -> Metric.exists_pos_forall_lt_edist
- EMetric.exists_real_pos_lt_infEdist_of_notMem_closure -> Metric.exists_real_pos_lt_infEDist_of_notMem_closure
- EMetric.hausdorffEdist -> Metric.hausdorffEDist
- EMetric.hausdorffEdist_closure -> Metric.hausdorffEDist_closure
- EMetric.hausdorffEdist_closure₁ -> Metric.hausdorffEDist_closure_left
- EMetric.hausdorffEdist_closure₂ -> Metric.hausdorffEDist_closure_right
- EMetric.hausdorffEdist_comm -> Metric.hausdorffEDist_comm
- EMetric.hausdorffEdist_def -> Metric.hausdorffEDist_def
- EMetric.hausdorffEdist_empty -> Metric.hausdorffEDist_empty
- EMetric.hausdorffEdist_iUnion_le -> Metric.hausdorffEDist_iUnion_le
- EMetric.hausdorffEdist_image -> Metric.hausdorffEDist_image
- EMetric.hausdorffEdist_le_ediam -> Metric.hausdorffEDist_le_ediam
- EMetric.hausdorffEdist_le_of_infEdist -> Metric.hausdorffEDist_le_of_infEDist
- EMetric.hausdorffEdist_le_of_mem_edist -> Metric.hausdorffEDist_le_of_mem_edist
- EMetric.hausdorffEdist_le_of_mem_hausdorffEntourage -> Metric.hausdorffEDist_le_of_mem_hausdorffEntourage
- EMetric.hausdorffEdist_prod_le -> Metric.hausdorffEDist_prod_le
- EMetric.hausdorffEdist_self -> Metric.hausdorffEDist_self
- EMetric.hausdorffEdist_self_closure -> Metric.hausdorffEDist_self_closure
- EMetric.hausdorffEdist_singleton -> Metric.hausdorffEDist_singleton
- EMetric.hausdorffEdist_triangle -> Metric.hausdorffEDist_triangle
- EMetric.hausdorffEdist_union_le -> Metric.hausdorffEDist_union_le
- EMetric.hausdorffEdist_zero_iff_closure_eq_closure -> Metric.hausdorffEDist_zero_iff_closure_eq_closure
- EMetric.hausdorffEdist_zero_iff_eq_of_closed -> IsClosed.hausdorffEDist_zero_iff
- EMetric.infEdist -> Metric.infEDist
- EMetric.infEdist_anti -> Metric.infEDist_anti
- EMetric.infEdist_biUnion -> Metric.infEDist_biUnion
- EMetric.infEdist_closure -> Metric.infEDist_closure
- EMetric.infEdist_closure_pos_iff_notMem_closure -> Metric.infEDist_closure_pos_iff_notMem_closure
- EMetric.infEdist_empty -> Metric.infEDist_empty
- EMetric.infEdist_iUnion -> Metric.infEDist_iUnion
- EMetric.infEdist_image -> Metric.infEDist_image
- EMetric.infEdist_le_edist_add_infEdist -> Metric.infEDist_le_edist_add_infEDist
- EMetric.infEdist_le_edist_of_mem -> Metric.infEDist_le_edist_of_mem
- EMetric.infEdist_le_hausdorffEdist_of_mem -> Metric.infEDist_le_hausdorffEDist_of_mem
- EMetric.infEdist_le_infEdist_add_edist -> Metric.infEDist_le_infEDist_add_edist
- EMetric.infEdist_le_infEdist_add_hausdorffEdist -> Metric.infEDist_le_infEDist_add_hausdorffEDist
- EMetric.infEdist_lt_iff -> Metric.infEDist_lt_iff
- EMetric.infEdist_pos_iff_notMem_closure -> Metric.infEDist_pos_iff_notMem_closure
- EMetric.infEdist_prod -> Metric.infEDist_prod
- EMetric.infEdist_singleton -> Metric.infEDist_singleton
- EMetric.infEdist_smul -> Metric.infEDist_smul
- EMetric.infEdist_union -> Metric.infEDist_union
- EMetric.infEdist_vadd -> Metric.infEDist_vadd
- EMetric.infEdist_zero_of_mem -> Metric.infEDist_zero_of_mem
- EMetric.le_infEdist -> Metric.le_infEDist
- EMetric.mem_closure_iff_infEdist_zero -> Metric.mem_closure_iff_infEDist_zero
- EMetric.mem_hausdorffEntourage_of_hausdorffEdist_lt -> Metric.mem_hausdorffEntourage_of_hausdorffEDist_lt
- EMetric.mem_iff_infEdist_zero_of_closed -> Metric.mem_iff_infEDist_zero_of_closed
- EMetric.nonempty_of_hausdorffEdist_ne_top -> Metric.nonempty_of_hausdorffEDist_ne_top
- EmetricSpace.ofRiemannianMetric -> EMetricSpace.ofRiemannianMetric
- IsCompact.exists_infEdist_eq_edist -> IsCompact.exists_infEDist_eq_edist
- Measurable.infEdist -> Measurable.infEDist
- Metric.cthickening_eq_preimage_infEdist -> Metric.cthickening_eq_preimage_infEDist
- Metric.eventually_notMem_cthickening_of_infEdist_pos -> Metric.eventually_notMem_cthickening_of_infEDist_pos
- Metric.eventually_notMem_thickening_of_infEdist_pos -> Metric.eventually_notMem_thickening_of_infEDist_pos
- Metric.hausdorffEdist_ne_top_of_nonempty_of_bounded -> Metric.hausdorffEDist_ne_top_of_nonempty_of_bounded
- Metric.infEdist_eq_top_iff -> Metric.infEDist_eq_top_iff
- Metric.infEdist_le_infEdist_cthickening_add -> Metric.infEDist_le_infEDist_cthickening_add
- Metric.infEdist_le_infEdist_thickening_add -> Metric.infEDist_le_infEDist_thickening_add
- Metric.infEdist_ne_top -> Metric.infEDist_ne_top
- Metric.mem_thickening_iff_infEdist_lt -> Metric.mem_thickening_iff_infEDist_lt
- Metric.thickening_eq_preimage_infEdist -> Metric.thickening_eq_preimage_infEDist
- PseudoEmetricSpace.ofEdistOfTopology -> PseudoEMetricSpace.ofEDistOfTopology
- PseudoEmetricSpace.ofRiemannianMetric -> PseudoEMetricSpace.ofRiemannianMetric
- infEdist_cthickening -> infEDist_cthickening
- infEdist_inv -> infEDist_inv
- infEdist_inv_inv -> infEDist_inv_inv
- infEdist_neg -> infEDist_neg
- infEdist_neg_neg -> infEDist_neg_neg
- infEdist_smul₀ -> infEDist_smul₀
- infEdist_thickening -> infEDist_thickening
- measurable_infEdist -> measurable_infEDist
- thickenedIndicatorAux_mono_infEdist -> thickenedIndicatorAux_mono_infEDist
- thickenedIndicator_mono_infEdist -> thickenedIndicator_mono_infEDist

Also renames some instances.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
I've also verified that all the old deprecations are in place with the same date and `newName`.

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 1]
```diff
@@ -384,24 +366,98 @@ instance secondCountableTopology [SecondCountableTopology α] :
...
 
-end
+end TopologicalSpace
+
+namespace EMetric
+
+open Metric
+
+@[deprecated (since := "2025-11-19")]
+alias isUniformEmbedding_toCloseds := TopologicalSpace.NonemptyCompacts.isUniformEmbedding_toCloseds
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/Closeds.lean]:
```suggestion
alias NonemptyCompacts.isUniformEmbedding_toCloseds := TopologicalSpace.NonemptyCompacts.isUniformEmbedding_toCloseds
```

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 2]
```diff
@@ -384,24 +366,98 @@ instance secondCountableTopology [SecondCountableTopology α] :
...
+
+@[deprecated (since := "2025-11-19")]
+alias continuous_toCloseds := TopologicalSpace.NonemptyCompacts.continuous_toCloseds
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/Closeds.lean]: This is not needed.

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 3]
```diff
@@ -384,24 +366,98 @@ instance secondCountableTopology [SecondCountableTopology α] :
...
+
+@[deprecated (since := "2026-01-08")]
+alias Closeds.lipschitz_sup := TopologicalSpace.Closeds.lipschitz_sup
+
+@[deprecated (since := "2026-01-08")]
+alias NonemptyCompacts.isometry_toCloseds :=
+  TopologicalSpace.NonemptyCompacts.isometry_toCloseds
+
+@[deprecated (since := "2025-08-20")]
+alias ToCloseds.isUniformEmbedding := TopologicalSpace.NonemptyCompacts.isUniformEmbedding_toCloseds
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/Closeds.lean]: This is not needed.

File: Mathlib/Topology/MetricSpace/Closeds.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Topology/MetricSpace/Closeds.lean]: Indeed, I forgot to verify that I haven't added any new deprecated aliases. I'm fixing it. Thanks!

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 4]
```diff
@@ -63,64 +61,59 @@ theorem hausdorffEdist_le_of_mem_hausdorffEntourage {s t : Set α} {δ : ℝ≥0
...
+open Metric
 
 variable {α β : Type*} [EMetricSpace α] [EMetricSpace β] {s : Set α}
 
+namespace Closeds
+
 /-- In emetric spaces, the Hausdorff edistance defines an emetric space structure
 on the type of closed subsets -/
-instance Closeds.emetricSpace : EMetricSpace (Closeds α) where
+instance instEmetricSpace : EMetricSpace (Closeds α) where
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Closeds.lean]:
```suggestion
instance instEMetricSpace : EMetricSpace (Closeds α) where
```

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean [hunk 5]
```diff
@@ -685,24 +799,27 @@ theorem hausdorffEdist_ne_top_of_nonempty_of_bounded (hs : s.Nonempty) (ht : t.N
...
 theorem hausdorffDist_self_zero : hausdorffDist s s = 0 := by simp [hausdorffDist]
 
 /-- The Hausdorff distances from `s` to `t` and from `t` to `s` coincide. -/
 theorem hausdorffDist_comm : hausdorffDist s t = hausdorffDist t s := by
-  simp [hausdorffDist, hausdorffEdist_comm]
+  simp [hausdorffDist, hausdorffEDist_comm]
 
 /-- The Hausdorff distance to the empty set vanishes (if you want to have the more reasonable
-value `∞` instead, use `EMetric.hausdorffEdist`, which takes values in `ℝ≥0∞`). -/
+value `∞` instead, use `EMetric.hausdorffEDist`, which takes values in `ℝ≥0∞`). -/
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/HausdorffDistance.lean]:
```suggestion
value `∞` instead, use `Metric.hausdorffEDist`, which takes values in `ℝ≥0∞`). -/
```

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean [hunk 6]
```diff
@@ -685,24 +799,27 @@ theorem hausdorffEdist_ne_top_of_nonempty_of_bounded (hs : s.Nonempty) (ht : t.N
...
 @[simp]
 theorem hausdorffDist_empty : hausdorffDist s ∅ = 0 := by
   rcases s.eq_empty_or_nonempty with h | h
   · simp [h]
-  · simp [hausdorffDist, hausdorffEdist_empty h]
+  · simp [hausdorffDist, hausdorffEDist_empty h]
 
 /-- The Hausdorff distance to the empty set vanishes (if you want to have the more reasonable
-value `∞` instead, use `EMetric.hausdorffEdist`, which takes values in `ℝ≥0∞`). -/
+value `∞` instead, use `EMetric.hausdorffEDist`, which takes values in `ℝ≥0∞`). -/
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/HausdorffDistance.lean]:
```suggestion
value `∞` instead, use `Metric.hausdorffEDist`, which takes values in `ℝ≥0∞`). -/
```

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean [hunk 7]
```diff
@@ -450,31 +561,28 @@ formulated in terms of the edistance, and coerce them to `ℝ`.
...
+  rw [infDist, infEDist, iInf_subtype', ENNReal.toReal_iInf]
   · simp only [dist_edist]
   · finiteness
 
 /-- The minimal distance is always nonnegative -/
 theorem infDist_nonneg : 0 ≤ infDist x s := toReal_nonneg
 
 /-- The minimal distance to the empty set is 0 (if you want to have the more reasonable
-value `∞` instead, use `EMetric.infEdist`, which takes values in `ℝ≥0∞`) -/
+value `∞` instead, use `EMetric.infEDist`, which takes values in `ℝ≥0∞`) -/
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/HausdorffDistance.lean]:
```suggestion
value `∞` instead, use `Metric.infEDist`, which takes values in `ℝ≥0∞`) -/
```

File: Mathlib/Topology/MetricSpace/Thickening.lean [hunk 8]
```diff
@@ -46,38 +46,46 @@ section Thickening
...
   exact (ENNReal.ofReal_le_ofReal hδ.le).trans ε_lt.le
 
-/-- The (open) thickening equals the preimage of an open interval under `EMetric.infEdist`. -/
-theorem thickening_eq_preimage_infEdist (δ : ℝ) (E : Set α) :
-    thickening δ E = (infEdist · E) ⁻¹' Iio (ENNReal.ofReal δ) :=
+@[deprecated (since := "2026-01-08")]
+alias eventually_notMem_thickening_of_infEdist_pos :=
+  eventually_notMem_thickening_of_infEDist_pos
+
+/-- The (open) thickening equals the preimage of an open interval under `EMetric.infEDist`. -/
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/Thickening.lean]:
```suggestion
/-- The (open) thickening equals the preimage of an open interval under `Metric.infEDist`. -/
```

File: Mathlib/Topology/MetricSpace/Thickening.lean [hunk 9]
```diff
@@ -92,17 +100,17 @@ theorem thickening_mono {δ₁ δ₂ : ℝ} (hle : δ₁ ≤ δ₂) (E : Set α)
...
-    thickening δ E₁ ⊆ thickening δ E₂ := fun _ hx => lt_of_le_of_lt (infEdist_anti h) hx
+    thickening δ E₁ ⊆ thickening δ E₂ := fun _ hx => lt_of_le_of_lt (infEDist_anti h) hx
 
 theorem mem_thickening_iff_exists_edist_lt {δ : ℝ} (E : Set α) (x : α) :
     x ∈ thickening δ E ↔ ∃ z ∈ E, edist x z < ENNReal.ofReal δ :=
-  infEdist_lt_iff
+  infEDist_lt_iff
 
-/-- The frontier of the (open) thickening of a set is contained in an `EMetric.infEdist` level
+/-- The frontier of the (open) thickening of a set is contained in an `EMetric.infEDist` level
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/Thickening.lean]:
```suggestion
/-- The frontier of the (open) thickening of a set is contained in an `Metric.infEDist` level
```

File: Mathlib/Topology/MetricSpace/Thickening.lean [hunk 10]
```diff
@@ -528,11 +543,11 @@ theorem closure_eq_iInter_thickening (E : Set α) :
   rw [← cthickening_zero]
   exact cthickening_eq_iInter_thickening rfl.ge E
 
-/-- The frontier of the closed thickening of a set is contained in an `EMetric.infEdist` level
+/-- The frontier of the closed thickening of a set is contained in an `EMetric.infEDist` level
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/Thickening.lean]:
```suggestion
/-- The frontier of the closed thickening of a set is contained in an `Metric.infEDist` level
```

**Review by gasparattila — APPROVED** [review]
There are some comments which still use the `EMetric` namespace. You should also fix `overview.yaml`, which refers to `EMetric.hausdorffEdist`. Otherwise LGTM.

**Comment by eric-wieser** [comment]
Thanks for spotting these @gasparattila; do you want to do a final check?

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 11]
```diff
@@ -63,64 +61,59 @@ theorem hausdorffEdist_le_of_mem_hausdorffEntourage {s t : Set α} {δ : ℝ≥0
...
   __ := PseudoEMetricSpace.hausdorff.induced SetLike.coe
-  eq_of_edist_eq_zero {s t} h :=
-    Closeds.ext <| (hausdorffEdist_zero_iff_eq_of_closed s.isClosed t.isClosed).1 h
+  eq_of_edist_eq_zero {s t} h := Closeds.ext <| (s.isClosed.hausdorffEDist_zero_iff t.isClosed).1 h
 
 /-- The edistance to a closed set depends continuously on the point and the set -/
-theorem continuous_infEdist_hausdorffEdist :
-    Continuous fun p : α × Closeds α => infEdist p.1 p.2 := by
+theorem continuous_infEDist_hausdorffEDist :
+    Continuous fun p : α × Closeds α => infEDist p.1 p.2 := by
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/Closeds.lean]: Now that this is in the `Closeds` namespace, it may be better to name this `continuous_infEDist`, since the statement doesn't mention `hausdorffEDist`.

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 12]
```diff
@@ -234,27 +228,13 @@ where the edistance is the Hausdorff edistance -/
 instance emetricSpace : EMetricSpace (NonemptyCompacts α) where
```
Comment (gasparattila) [inline Mathlib/Topology/MetricSpace/Closeds.lean]: The naming of the instances for `NonemptyCompacts` is inconsistent with the ones for `Closeds`. These should also be renamed to `inst...`, or they could just use the auto-generated names, which would have the same result.

File: Mathlib/Topology/MetricSpace/Closeds.lean (hunk 11 above)
Comment (urkud) [reply Mathlib/Topology/MetricSpace/Closeds.lean]: Fixed.

File: Mathlib/Topology/MetricSpace/Closeds.lean (hunk 12 above)
Comment (urkud) [reply Mathlib/Topology/MetricSpace/Closeds.lean]: Fixed.

**Review by gasparattila — APPROVED** [review]

**Comment by eric-wieser** [comment]
bors merge

Thanks!
